US07544812B2
A solution of 2-methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-2-phenoxy-propionic acid ethyl ester (0.40 g, 0.94 mmol) in DMF (10 mL) is treated with NaH (60% oil suspension, 0.094 g, 2.35 mmol) and stirred at room temperature under N2 for 30 minutes. The reaction is cooled to 0° C. and treated with tetrabutylammonium iodide (0.040 g, 0.11 mmol) and 3-methoxybenzyl bromide (0.29 g, 1.43 mmol) and then warmed to room temperature and stirred for 1.5 h. The reaction is quenched with 1 N HCl (15 mL) and worked up extractively with Et2O and water. The organic layer is dried (MgSO4) and the solvent removed in vacuo to afford crude product that is purified by flash chromatography using 2:1 hexanes:acetone to afford 0.28 g (55%) 3-(4-{2-[1-(3-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-phenoxy-propionic acid ethyl ester. 1H NMR. Rf=0.41 (1:1 acetone:hexanes). MS (ES+) Calc'd for C32H39N2O6 (M+1) 547. Found m/z 547 (100%).

reactant | 2-methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-2-phenoxy-propionic acid ethyl ester | 0.94 mmol, 0.40 g | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(NC1)=O)C)(OC1=CC=CC=C1)C)=O | C24H30N2O5
reactant | NaH | 2.35 mmol, 0.094 g | [H-].[Na+]
reactant | 3-methoxybenzyl bromide | 1.43 mmol, 0.29 g | COC=1C=C(CBr)C=CC1 | C8H9BrO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 0.11 mmol, 0.040 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-(4-{2-[1-(3-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-phenoxy-propionic acid ethyl ester | 0.28 g, 55% | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC(=CC=C1)OC)=O)C)(OC1=CC=CC=C1)C)=O | C32H38N2O6
